US07589095B2
A solution of 6-(3-benzyloxy-propyl)-2-methylsulfanyl-pyrimidin-4-ol (200 mg) and triethylamine (0.2 mL) in dichloromethane (5 mL) was cooled to 0° C., whereupon trifluoroacetic anhydride (0.14 mL) was added and the resultant mixture warmed to room temperature. After 2 h, the reaction mixture was washed with water (2×20 mL), dried over sodium sulphate and evaporated under reduced pressure. Flash silica column chromatography afforded trifluoro-acetic acid 6-(3-benzyloxy-propyl)-2-methylsulfanyl-pyrimidin-4-yl ester (160 mg) as a yellow oil.

reactant | 6-(3-benzyloxy-propyl)-2-methylsulfanyl-pyrimidin-4-ol | 200 mg | C(C1=CC=CC=C1)OCCCC1=CC(=NC(=N1)SC)O | C15H18N2O2S
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.14 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | trifluoro-acetic acid 6-(3-benzyloxy-propyl)-2-methylsulfanyl-pyrimidin-4-yl ester | 160 mg | C(C1=CC=CC=C1)OCCCC1=CC(=NC(=N1)SC)OC(C(F)(F)F)=O | C17H17F3N2O3S
